US03943154
To a solution of 4.2 g (0.02 mol) of 3-(4-aminobenzenesulfonyl)acrylonitrile in 40 ml of dioxane (containing 1.6 ml pyridine) is added a solution of 5.3 g (0.02 mol) of 2-hydroxy-3,5-dichlorobenzenesulfonyl chloride in 15 ml dioxane. The second solution is slowly added to the first over a 10-minute period. The reaction mixture (which takes on an orange color) is stirred for 2 hours at room temperature and then left for 16 hours. Water is added and the precipitate is filtered off and dried, giving the pink, fluffy 3-[4-(3,5-dichloro-2-hydroxy benzenesulfonamido)-benzenesulfonyl]acrylonitrile: ##SPC28##

reactant | 3-(4-aminobenzenesulfonyl)acrylonitrile | 0.02 mol, 4.2 g | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
reactant | 2-hydroxy-3,5-dichlorobenzenesulfonyl chloride | 0.02 mol, 5.3 g | OC1=C(C=C(C=C1Cl)Cl)S(=O)(=O)Cl | C6H3Cl3O3S
reactant | Water | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 3-[4-(3,5-dichloro-2-hydroxy benzenesulfonamido)-benzenesulfonyl]acrylonitrile | ClC=1C(=C(C=C(C1)Cl)S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N)O | C15H10Cl2N2O5S2
